US09290490B2
Sodium hydroxide (3.0 M in H2O, 5.98 mL, 17.93 mmol) was added to a solution of racemic butyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate (2.0 g, 5.12 mmol) in methanol (6 mL) and heated to 70° C. for 3 hour. Then, the reaction was cooled to room temperature and acidified with hydrochloric acid (3.0 M in H2O). Water (10 mL) was added and the mixture was stirred overnight at which point crystallization occurred. The reaction was filtered and the filter cake was washed with water and then dried under a nitrogen bag to afford racemic trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylic acid as a white solid. MS ESI calc'd. for C12H17BrNO3S [M+H]+ 334, 336. found 334, 336. 1H NMR (600 MHz, DMSO-d6) δ 11.92 (s, 1H), 7.69 (s, 1H), 5.91 (s, 1H), 2.03-1.93 (m, 1H), 1.92-1.85 (m, 1H), 1.85-1.77 (m, 2H), 1.62-1.51 (m, 1H), 1.48-1.35 (m, 4H), 1.25-1.08 (m, 3H), 1.04-0.88 (m, 1H).

reactant | Sodium hydroxide | 17.93 mmol, 3.0 M, 5.98 mL | [OH-].[Na+]
reactant | racemic butyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate | 5.12 mmol, 2.0 g | BrC1=CN=C(S1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C16H24BrNO3S
reactant | hydrochloric acid | 3.0 M | Cl | ClH
reactant | Water | 10 mL | O | H2O
solvent | methanol | 6 mL | CO | CH4O
product | racemic trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylic acid | BrC1=CN=C(S1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)O | C12H16BrNO3S
